US07199120B2
A solution of N-cyclopentyl-4-[2-(2-methyl-1,3-thiazol-4-yl)pyrazolo[1,5-a]pyridin-3-yl]-2-pyridinamine (138 mg, 0.37 mmol) in tetrahydrofuran (10 mL) was cooled to −78° C. n-Butyl lithium (1.6M in hexanes, 0.75 mL, 1.22 mmol) was added dropwise. After stirring at −78° C. for 20 minutes, carbon tetrachloride (1 mL) was added to the solution. The reaction was stirred for another 20 minutes at −78° C. and subsequently quenched with water. The reaction mixture was warmed to room temperature and extracted with ethyl acetate. The organics were combined and washed with water, brine and dried over magnesium sulfate. Filtration and concentration, followed by flash chromatography (1:19 methanol/dichloromethane) gave 4-[7-chloro-2-(2-methyl-1,3-thiazol-4-yl)pyrazolo[1,5-a]pyridin-3-yl]-N-cyclopentyl-2-pyridinamine as a brown oil.

reactant | N-cyclopentyl-4-[2-(2-methyl-1,3-thiazol-4-yl)pyrazolo[1,5-a]pyridin-3-yl]-2-pyridinamine | 0.37 mmol, 138 mg | C1(CCCC1)NC1=NC=CC(=C1)C=1C(=NN2C1C=CC=C2)C=2N=C(SC2)C | C21H21N5S
reactant | n-Butyl lithium | 1.22 mmol, 1.6M, 0.75 mL | C(CCC)[Li]
reactant | carbon tetrachloride | 1 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 4-[7-chloro-2-(2-methyl-1,3-thiazol-4-yl)pyrazolo[1,5-a]pyridin-3-yl]-N-cyclopentyl-2-pyridinamine | ClC1=CC=CC=2N1N=C(C2C2=CC(=NC=C2)NC2CCCC2)C=2N=C(SC2)C | C21H20ClN5S
